US08614217B2
A suspension of N-hydroxyphthalimide (50.0 g, 306 mmol), 4-(chloromethyl)-1,3-thiazol-2-amine (50.1 g, 337 mmol), cesium carbonate (210 g, 0.64 mol) and potassium iodide (2.54 g, 15.3 mmol) in acetonitrile (440 mL) was stirred at room temperature for 18 h. Water (300 mL) was added, the precipitate was filtered off and washed with water until colourless, then dried in vacuo overnight to afford 2-[(2-amino-1,3-thiazol-4-yl)methoxy]-1H-isoindole-1,3(2H)-dione as a colourless solid [36.0 g; 43% of theory; HPLC/MS: m/z=276 (M+H); log P(HCOOH)=0.74].

reactant | N-hydroxyphthalimide | 306 mmol, 50.0 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-(chloromethyl)-1,3-thiazol-2-amine | 337 mmol, 50.1 g | ClCC=1N=C(SC1)N | C4H5ClN2S
reactant | cesium carbonate | 0.64 mol, 210 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 15.3 mmol, 2.54 g | [I-].[K+]
solvent | acetonitrile | 440 mL | C(C)#N | C2H3N
solvent | Water | 300 mL | O | H2O
product | 2-[(2-amino-1,3-thiazol-4-yl)methoxy]-1H-isoindole-1,3(2H)-dione | NC=1SC=C(N1)CON1C(C2=CC=CC=C2C1=O)=O | C12H9N3O3S
